US06518423B1
8-[(6-Bromopyridin-2-yl)-(tert-butyldimethylsiloxy)methyl]-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine
To a solution of 1.05 g of (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-(6-bromopyridin-2-yl)methanol in 15 ml of acetonitrile was added in a nitrogen atmosphere 3.2 ml of N-(tert-butyldimethylsilyl)-N-methyltrifluoroacetamide and the resulting mixture was stirred at room temperature for 22 hours. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 0.72 g of the title compound as a yellow solid.

reactant | (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-(6-bromopyridin-2-yl)methanol | 1.05 g | COCN1C2=C(SC3=C1C=C(C=C3)C(O)C3=NC(=CC=C3)Br)N=CC=N2 | C18H15BrN4O2S
reactant | N-(tert-butyldimethylsilyl)-N-methyltrifluoroacetamide | [Si](C)(C)(C(C)(C)C)N(C(C(F)(F)F)=O)C | C9H18F3NOSi
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 8-[(6-Bromopyridin-2-yl)-(tert-butyldimethylsiloxy)methyl]-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 0.72 g | BrC1=CC=CC(=N1)C(C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1)O[Si](C)(C)C(C)(C)C | C24H29BrN4O2SSi
